US06921763B2
To a mixture of 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (2 g, 0.0077 mol), (R)-tert-butyl 3-hydroxy-1-piperidinecarboxylate (2.3 g, 0.012 mol), and triphenylphosphine (3 g, 0.012 mol) in tetrahydrofuran (70 mL), diethyl azodicarboxylate (2 g, 0.012 mol) was added at 0° C. The mixture was stirred at room temperature under an atmosphere of nitrogen for 2 days. In order to complete the reaction, additional (R)-tert-butyl 3-hydroxy-1-piperidinecarboxylate (0.62 g, 0.003 mol), and triphenylphosphine (0.81 g, 0.012 mol), and diethyl azodicarboxylate (0.6 g, 0.003 mol) were added to the mixture. The mixture was stirred at room temperature under an atmosphere of nitrogen for additional 18 hours. The solvent was removed under the reduced pressure to yield crude (S)-tert-butyl 3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-piperidinecarboxylate, which was used crude for the next reaction.

reactant | 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.0077 mol, 2 g | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
reactant | (R)-tert-butyl 3-hydroxy-1-piperidinecarboxylate | 0.012 mol, 2.3 g | O[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | triphenylphosphine | 0.012 mol, 3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.012 mol, 2 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (R)-tert-butyl 3-hydroxy-1-piperidinecarboxylate | 0.003 mol, 0.62 g | O[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | triphenylphosphine | 0.012 mol, 0.81 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.003 mol, 0.6 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | (S)-tert-butyl 3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-piperidinecarboxylate | NC1=C2C(=NC=N1)N(N=C2I)[C@@H]2CN(CCC2)C(=O)OC(C)(C)C | C15H21IN6O2
